US07582625B2
(R)-2-(1′-hexyloxycarbonylmethyl-4,4′-bipiperidinyl-1-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 80 mg (0.12 mmol) (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 45 mg (0.14 mmol) TBTU and 32 μL (0.23 mmol) triethylamine in 1.2 mL DMF was stirred for 1 h at RT. Then 29 μL (0.23 mmol) 1-hexanol were added and the reaction mixture was stirred for 4 days at RT. The mixture was evaporated down i.vac., the residue was taken up in 30 mL EtOAc, the organic phase was washed with 20 mL 5% NaHCO3 solution and dried on Na2SO4. After the elimination of the desiccant and solvent the residue was purified by chromatography (silica gel, gradient DCM/isopropanol 95:5 to DCM/isopropanol 90:10). The fractions containing the product were concentrated by evaporation i. vac., the residue was triturated with DIPE, suction filtered and dried.

reactant | (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.12 mmol, 80 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C38H51N5O7
reactant | TBTU | 0.14 mmol, 45 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.23 mmol, 32 μL | C(C)N(CC)CC | C6H15N
reactant | 1-hexanol | 0.23 mmol, 29 μL | C(CCCCC)O | C6H14O
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | (R)-2-(1′-hexyloxycarbonylmethyl-4,4′-bipiperidinyl-1-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)OCCCCCC)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C44H63N5O7
